US08334315B2
9.7 Synthesis of 5-(aminomethyl)-N-(pyridin-2-ylmethyl)-3-(trifluoromethyl)-1H-pyrazol-1-amine (Employed for the Synthesis of Example Compound No. 204)
To a solution of tert-butyl(1-amino-3-(trifluoromethyl)-1H-pyrazol-5-yl)methylcarbamate (2 g, 0.0071 mol) in methanol (15 ml), picolinaldehyde (1.14 g (1 ml), 0.016 mol, 1.5 eq) taken in methanol (5 ml) was added. Then the reaction mixture was acidified with acetic acid (0.2 ml, catalytic) and heated to reflux for 24 hrs. Progress of the reaction was monitored by TLC (10% ethyl acetate/hexane, Rf˜0.4). On completion of the reaction, methanol was distilled off completely. Residue was taken in ice water (200 ml) and the product extracted with ethyl acetate (4×50 ml). Combined extract was washed with water (2×50 ml), dried over sodium sulfate and the ethyl acetate was distilled off completely. Crude obtained was recrystalised from hexane (10 ml) to yield the required product as liquid (2 g, 76% yield).

reactant | tert-butyl(1-amino-3-(trifluoromethyl)-1H-pyrazol-5-yl)methylcarbamate | 0.0071 mol, 2 g | C(C)(C)(C)OC(NCC1=CC(=NN1N)C(F)(F)F)=O | C10H15F3N4O2
reactant | picolinaldehyde | 0.016 mol, 1 ml, 1.14 g, 1.5 eq | N1=C(C=CC=C1)C=O | C6H5NO
reactant | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | methanol | 15 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | 5-(aminomethyl)-N-(pyridin-2-ylmethyl)-3-(trifluoromethyl)-1H-pyrazol-1-amine | 2 g, 76% yield | NCC1=CC(=NN1NCC1=NC=CC=C1)C(F)(F)F | C11H12F3N5
